### ISSUE TITLE
Unreachable with lean backend

### ISSUE THREAD

**Issue by nishanthkarthik** [AeneasVerif/aeneas#376]
aeneas main commit 19509e6

```
[Info ] Imported: treelib.llbc
[Info ] Generated the partial file (because of errors): ./Treelib.lean
[Error] Unreachable
Source: 'trees.rs', lines 5:0-9:1
[Error] Could not translate type decl 'treelib::Node because of previous error
Name pattern: 'treelib::Node'
Source: 'trees.rs', lines 5:0-9:1
[Error] Unreachable
Source: 'trees.rs', lines 11:0-13:1
[Error] Could not translate type decl 'treelib::Tree because of previous error
Name pattern: 'treelib::Tree'
Source: 'trees.rs', lines 11:0-13:1
[Error] Unreachable
Source: 'trees.rs', lines 19:0-24:1
[Error] Could not translate the function signature of 'treelib::max_val because of previous error
Name pattern: 'treelib::max_val'
Source: 'trees.rs', lines 19:0-24:1
[Error] Unreachable
Source: 'trees.rs', lines 19:0-24:1
[Error] Could not translate the function 'treelib::max_val because of previous error
Name pattern: 'treelib::max_val'
Source: 'trees.rs', lines 19:0-24:1
```

```rs
use std::boxed::Box;

type OptNode = Option<Box<Node>>;

struct Node {
    left: OptNode,
    right: OptNode,
    val: usize,
}

struct Tree {
    root: OptNode,
}

fn max(a: usize, b: usize) -> usize {
    if a >= b { a } else { b }
}

fn max_val(t: &OptNode) -> usize {
    match t {
        None => 0,
        Some(e) => max(e.val, max(max_val(&e.left), max_val(&e.right))),
    }
}
```

**Comment by sonmarcho** [comment]
I manage to generate the code below on my side. Maybe the issue comes from the fact that you're not using the relevant options with Charon, could you try with `charon --no-cargo --hide-marker-traits`?

```lean
import Base
open Primitives
set_option linter.dupNamespace false
set_option linter.hashCommand false
set_option linter.unusedVariables false

namespace issue

/- [issue::Node]
   Source: 'tests/src/issue.rs', lines 5:0-9:1 -/
inductive Node :=
| mk : Option Node → Option Node → Usize → Node

@[reducible]
def Node.left (x : Node) := match x with | Node.mk x1 _ _ => x1

@[reducible]
def Node.right (x : Node) := match x with | Node.mk _ x1 _ => x1

@[reducible]
def Node.val (x : Node) := match x with | Node.mk _ _ x1 => x1

@[simp]
theorem Node.left._simpLemma_ (left : Option Node) (right : Option Node) (val :
  Usize) : (Node.mk left right val).left = left := by rfl

@[simp]
theorem Node.right._simpLemma_ (left : Option Node) (right : Option Node) (val
  : Usize) : (Node.mk left right val).right = right := by rfl

@[simp]
theorem Node.val._simpLemma_ (left : Option Node) (right : Option Node) (val :
  Usize) : (Node.mk left right val).val = val := by rfl

/- [issue::Tree]
   Source: 'tests/src/issue.rs', lines 11:0-13:1 -/
structure Tree where
  root : Option Node

/- [issue::max]:
   Source: 'tests/src/issue.rs', lines 15:0-17:1 -/
def max (a : Usize) (b : Usize) : Result Usize :=
  if a >= b
  then Result.ok a
  else Result.ok b

/- [issue::max_val]:
   Source: 'tests/src/issue.rs', lines 19:0-24:1 -/
divergent def max_val (t : Option Node) : Result Usize :=
  match t with
  | none => Result.ok 0#usize
  | some e =>
    do
    let i ← max_val e.left
    let i1 ← max_val e.right
    let i2 ← max i i1
    max e.val i2

end issue
```

**Comment by nishanthkarthik** [comment]
Ah my bad. Sorry!

**Comment by sonmarcho** [comment]
We actually opened an issue for this, because it is an extremely frequent mistake: https://github.com/AeneasVerif/aeneas/issues/377
